US05463077
A solution of 6.3N hydrochloric acid in 115 cm3 of dioxane is added to a solution of 6.8 g of (3aS, 4S, 7aS )-4,7,7-triphenyl-2-tert-butoxycarbonyl-perhydroisoindol-4-ol in 60 cm3 of dioxane at room temperature. The reaction mixture is stirred at this temperature for 2 hour and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is washed with acetonitrile, filtered off and then dried. 4 g of (3aS, 4S, 7aS )-4,7,7- triphenyl-perhydroisoindol-4-ol hydrochloride are obtained in the form of a white foam.

reactant | hydrochloric acid | 6.3N | Cl | ClH
reactant | (3aS, 4S, 7aS )-4,7,7-triphenyl-2-tert-butoxycarbonyl-perhydroisoindol-4-ol | 6.8 g | C1(=CC=CC=C1)[C@]1([C@@H]2CN(C[C@@H]2C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)O | C31H35NO3
solvent | dioxane | 115 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 cm3 | O1CCOCC1 | C4H8O2
product | (3aS, 4S, 7aS )-4,7,7- triphenyl-perhydroisoindol-4-ol hydrochloride | 4 g | Cl.C1(=CC=CC=C1)[C@]1([C@@H]2CNC[C@@H]2C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C26H27NO.ClH/c28-26(22-14-8-3-9-15-22)17-16-25(20-10-4-1-5-11-20,21-12-6-2-7-13-21)23-18-27-19-24(23)26;/h1-15,23-24,27-28H,16-19H2;1H/t23-,24+,26+;/m0./s1
